US07863291B2
To a bright orange solution of 1,1′-thiocarbonyldipyridin-2(1H)-one (0.84 g, 3.59 mmol) was in dichloromethane at ambient temperature was added 6-(methoxymethyl)pyrimidin-4-amine (0.5 g, 3.59 mmol). The orange solution was stirred at ambient temperature for 18 h. The solution was purified by column chromatography (0-40% ethyl acetate/hexanes) to afford 4-isothiocyanato-6-(methoxymethyl)pyrimidine (0.32 g, 1.77 mmol, 49% yield) as a yellow solid. 1H NMR (400 MHz, CDCl3) δ ppm 8.91 (1 H, d, J=1.26 Hz), 7.19 (1 H, d, J=1.01 Hz), 4.52 (2 H, s), 3.49 (3 H, s). MS (LC/MS) R.T.=1.39; [M+H]+=182.10.

reactant | 1,1′-thiocarbonyldipyridin-2(1H)-one | 3.59 mmol, 0.84 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
reactant | 6-(methoxymethyl)pyrimidin-4-amine | 3.59 mmol, 0.5 g | COCC1=CC(=NC=N1)N | C6H9N3O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-isothiocyanato-6-(methoxymethyl)pyrimidine | 1.77 mmol, 0.32 g, 49% yield | N(=C=S)C1=NC=NC(=C1)COC | C7H7N3OS
